US08017801B2
Before the start of the reaction, the loop reactor is filled with a solution of 26.0% by weight of tert-butyl hydroperoxide and 16.2% by weight of potassium hydroxide in water. Initially 26.0 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 25.0 kg/h of a solution of 45% by weight of potassium hydroxide in water, 26.4 kg/h of water and 18.0 kg/h of pivaloyl chloride are then fed to the loop reactor. Cooling with cooling water keeps the internal temperature at 15° C. in the loop reactor and at 10° C. in the stirred cell reactor. The partial neutralization is effected with 6.0 kg/h of 31% by weight hydrochloric acid with addition of 8.2 kg/h of isododecane at a temperature of 8° C. The organic phase is extracted with 33.2 kg/h of a 20% by weight aqueous solution of potassium hydroxide. This affords 37.4 kg/h of aqueous extract comprising 11.6% by weight of tert-butyl hydroperoxide and 17.6% by weight of potassium hydroxide, which are feeded into the loop reactor. From the time at which aqueous extract is recycled into the loop reactor, the metered addition of the feedstocks is changed to 19.8 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 10.2 kg/h of a solution of 45% by weight of potassium hydroxide in water and 9.8 kg/h of water. After the extraction, the organic phase is washed with 36.0 kg/h of a solution of 1% by weight of sodium sulphite and 0.2% by weight of sulphuric acid, and dried by stripping at 20° C. and 45 mbar. 32.4 kg/h of a 75.3% by weight solution of tert-butyl peroxypivalate in isododecane are obtained (93.7% yield based on pivaloyl chloride).

reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | Cl | ClH
reactant | isododecane | CCCCCCCCCC(C)C | C12H26
solvent | water | O | H2O
product | tert-butyl peroxypivalate | 93.7% yield | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
